US08809382B2
Step 3 (5-Oxo-5-(2-undecyl-indol-1-yl)-pentanoic acid)
To a solution of 2-undecyl-1H-indole in DMSO was added KOH at RT and was stirred for 30 minutes. Then to this mixture was dihydro-pyran-2,6-dione and stirred for 3 hours. The reaction mixture was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 2-undecyl-1H-indole | C(CCCCCCCCCC)C=1NC2=CC=CC=C2C1 | C19H29N
reactant | KOH | [OH-].[K+]
reactant | dihydro-pyran-2,6-dione | O1C(CCCC1=O)=O | C5H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Oxo-5-(2-undecyl-indol-1-yl)-pentanoic acid | O=C(CCCC(=O)O)N1C(=CC2=CC=CC=C12)CCCCCCCCCCC | C24H35NO3
